US08022062B2
1-[4-(1-Hydroxyethyl)-phenyl]-3,3-dimethylbutan-1-one:
Dissolve 4-(3,3-dimethyl-butyryl)-benzaldehyde (1.67 g, 8.186 mmol) in anhydrous THF (20 mL) and cool the solution at −10° C. Add methyl magnesium bromide (2.7 mL, 8.186 mmol, 3M solution in diethyl ether) and stir the mixture for 30 min. Add water at 0° C., dilute with EtOAc and extract the aqueous layer three times with EtOAc. Dry the combined organic extracts over Na2SO4, filter through a short pad of silica gel and concentrate in vacuo to give the desired intermediate as yellow oil (1.519 g, 84%).

reactant | 4-(3,3-dimethyl-butyryl)-benzaldehyde | 8.186 mmol, 1.67 g | CC(CC(=O)C1=CC=C(C=O)C=C1)(C)C | C13H16O2
reactant | methyl magnesium bromide | 8.186 mmol, 3M, 2.7 mL | C[Mg]Br
reactant | water | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-[4-(1-Hydroxyethyl)-phenyl]-3,3-dimethylbutan-1-one | 1.519 g, 84% | OC(C)C1=CC=C(C=C1)C(CC(C)(C)C)=O | C14H20O2
